US05192785
Sulfamic acid 1,7-heptanediyl ester
The title compound was obtained using the following procedure: The sulfamoyl chloride in acetonitrile solution prepared in (a) was reacted as in Example 11 with 10.5 g (0.0755 mole) of 1,7-heptanediol (95%), 30.3 g (0.300 mole) of triethylamine in 100 ml additional acetonitrile followed by using extracting, washing and concentration procedures of Example 11 through the first evaporation. The viscous residue which solidified on standing was purified by high pressure liquid chromatography using the Waters Associates® Prep LC/System 500A with PrepPAK® 500 silica. Eluting solvent used was 10:1 mixture methylene chloride-acetone at a flow rate of 200 ml/min. Fractions containing the title compound were combined and the solvents were evaporated under reduced pressure to give a viscous oil which solidified on standing. The solid was recrystallized from wet methylene chloride to give 8.2 g (37% yield) of title compound as white solid, mp 88.5°-90.5° C.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 1,7-heptanediol | 0.0755 mole, 10.5 g | C(CCCCCCO)O | C7H16O2
reactant | triethylamine | 0.300 mole, 30.3 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | Sulfamic acid 1,7-heptanediyl ester | 8.2 g, 37% yield | C(CCCOS(=O)(=O)N)CCCOS(=O)(=O)N | C7H18N2O6S2
